US09422292B2
To a solution of methyl 3-(2-amino-4-fluorophenylamino)-2-methylpropanoate (10.0 g, 44.2 mmol) in toluene (200 mL) was added titanium tetraisopropanolate (18.8 g, 66.3 mmol). The mixture was stirred at 90° C. for 15 hours. The resultant mixture was concentrated in vacuo, and dissolved in tetrahydrofuran (200 mL), filtered through celite, and washed with tetrahydrofuran (100 mL). The filtrate was concentrated in vacuo, and the residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=2:1) to afford 8-fluoro-3-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one as a black solid (6.5 g, 76%).

reactant | methyl 3-(2-amino-4-fluorophenylamino)-2-methylpropanoate | 44.2 mmol, 10.0 g | NC1=C(C=CC(=C1)F)NCC(C(=O)OC)C | C11H15FN2O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetraisopropanolate | 66.3 mmol, 18.8 g | C(C)(C)[O-].C(C)(C)[O-].C(C)(C)[O-].C(C)(C)[O-].[Ti+4]
product | 8-fluoro-3-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one | 6.5 g, 76% | FC=1C=CC2=C(NC(C(CN2)C)=O)C1 | C10H11FN2O
